US04335135
A mixture of 5 g of 3,4-dihydro-1H-cyclohept[c,d] indol-6-one, 50 ml of benzene, 2.5 ml of methyl iodide, 25 ml of 5 N sodium hydroxide solution and 9.2 g of tetra-n-butyl ammonium acid sulfate was stirred for 30 minutes under an inert atmosphere at 40°-45° C. and the mixture was diluted with water. The decanted aqueous phase was extracted with ethyl acetate and the organic phase was washed with N hydrochloride acid, with water, dried and evaporated to dryness. The residue was chromatographed over silica gel and was eluted with a 95-5 chloroform-ethyl acetate mixture to obtain 6.5 g of raw product. The latter was crystallized from isopropanol to obtain 5.15 g of 1-methyl-1,3,4,5-tetrahydro-6H-cyclohept [c,d,] indol-6-one melting at ≃70° C.

reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
reactant | methyl iodide | 2.5 ml | CI | CH3I
reactant | sodium hydroxide | 5 N, 25 ml | [OH-].[Na+]
reactant | tetra-n-butyl ammonium | 9.2 g | C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | indol-6-one | N1=CC=C2C=CC(C=C12)=O | C8H5NO
